US06858627B2
6-(5-Isopropyl-2-methoxyphenyl)-2,2-dimethyl-4-phenethylsulfanylmethyl-1,2-dihydroquinoline
Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester was coupled with 5-isopropyl-2-methoxyphenylboronic acid. Bromination and coupling reaction with 2-phenylethanethiol gave 30 mg of the title compound.

reactant | Trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | 5-isopropyl-2-methoxyphenylboronic acid | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
reactant | 2-phenylethanethiol | C1(=CC=CC=C1)CCS | C8H10S
product | 6-(5-Isopropyl-2-methoxyphenyl)-2,2-dimethyl-4-phenethylsulfanylmethyl-1,2-dihydroquinoline | 30 mg | C(C)(C)C=1C=CC(=C(C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CSCCC1=CC=CC=C1)OC | C30H35NOS
